US05112866
2-[(4-Chlorophenyl)amino]ethenesulfonyl Fluoride
To a DMF (50 mL) solution of 4-chloroaniline (3.0 g, 23.5 mmol) was added ethenesulfonyl fluoride (3.3 mL, 30 mmol). The solution was heated at 110° C. until the 4-chloroaniline was consumed (monitored by tlc). The orange solution was diluted with 1 liter of water and the resulting oily precipitate was extracted into ether. The combined organic layers was washed with water and brine and dried (MgSO4). After the ether had been removed by distillation, the brown residue afforded the title compound (4.56 g, 81%) as yellow needles which could be crystallized from ether/hexane, mp 61°-63° C. (lit. mp 62°-63° C.; Hoechst's German Patent 1104968).

reactant | 4-chloroaniline | 23.5 mmol, 3.0 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | ethenesulfonyl fluoride | 30 mmol, 3.3 mL | C(=C)S(=O)(=O)F | C2H3FO2S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-[(4-Chlorophenyl)amino]ethenesulfonyl Fluoride | 4.56 g, 81% | ClC1=CC=C(C=C1)NC=CS(=O)(=O)F | C8H7ClFNO2S
